US07951954B2
a) {3-[(2-Methoxy-benzylcarbamoyl)-methyl]-phenyl}-acetic acid
Prepared from 2-methoxy-benzylamine (1.4 g), (3-carboxymethyl-phenyl)-acetic acid (2 g), 1-hydroxybenzotriazole (1.4 g), Hunigs base (1.8 mL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.0 g), using the method of Example 44 (step a), to give 990 mg of the sub-titled compound as a white solid.

reactant | 2-methoxy-benzylamine | 1.4 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | (3-carboxymethyl-phenyl)-acetic acid | 2 g | C(=O)(O)CC=1C=C(C=CC1)CC(=O)O | C10H10O4
reactant | 1-hydroxybenzotriazole | 1.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Hunigs base | 1.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.0 g | Cl.CN(CCCN=C=NCC)C
product | {3-[(2-Methoxy-benzylcarbamoyl)-methyl]-phenyl}-acetic acid | 990 mg | COC1=C(CNC(=O)CC=2C=C(C=CC2)CC(=O)O)C=CC=C1 | C18H19NO4
